US07858796B2
(25) 5-bromo-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 5-bromo-3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-1H-indole-carboxamide (656 mg, 1.41 mmol) and pyrrolidine (505 mg, 7.05 mmol) were allowed to react in the presence of K2CO3 (389.16 mg, 2.82 mmol). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (600 mg, 87%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 5-bromo-3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-1H-indole-carboxamide | 1.41 mmol, 656 mg | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCCl | C17H21BrClN3O3S
reactant | pyrrolidine | 7.05 mmol, 505 mg | N1CCCC1 | C4H9N
reactant | K2CO3 | 2.82 mmol, 389.16 mg | C(=O)([O-])[O-].[K+].[K+]
product | 5-bromo-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 600 mg, 87% | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCN1CCCC1 | C21H29BrN4O3S
